Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
headache, chest pain, vision changes
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ with glomerulosclerosis and hypertension presenting with 
headache and vision change. The patient describes constant 
headache for at least the last month ranging from ___ in 
intensity. At times it becomes so severe that he vomits, which 
last occurred this morning. He presents today with new visual 
symptoms. He describes decreased vision in his right eye, like a 
shadow through the vision of his right eye. His left eye vision 
is normal. Patient also reports intermittent chest pain, 
substernal pressure, non-exertional.

In the ED, initial vitals: 97.4 91 ___ RA   
Labs were significant for trop <0.01, BUN/Cr ___, WBC 10.7, 
lactate 1.0. 
CT head showed No evidence of acute intracranial abnormality.
CXR showed no acute cardiopulmonary process
EKG showed SR @ 81 bpm with LVH and STD in II,III,aVF suggestive 
of strain. 
In the ED, he received:
___ 12:59 IV Labetalol 10 mg
Ophthalmologic exam revealed cotton wool spots on left retina, 
but no papilledema, vitreous or retinal hemorrhages. 
Vitals prior to transfer: 65 171/115 13 97% RA 
  
On arrival, BP is 199/112 and he reports severe headache. He 
reports chronic headache sometimes associated with nausea/emesis 
for the last several months. Headaches, N/V are worse at night 
and in the AM. They sometimes awaken him and are worse when 
lying down. He cannot recall if they are associated with 
valsalva or bending over. He takes either Tylenol or aspirin for 
the headaches. 

Since yesterday, he has had a persistent visual field defect in 
the right eye. He describes it as a shadow/black spot. He denies 
diplopia. He also describes intermittent chest pain (both at 
rest and with exertion [today while walking to the hospital he 
had chest pain]). He also notes dyspnea on exertion without 
orthopnea recently. His BP at home is usually 176 systolic when 
he has his nighttime headaches. The best his BPs are at home 
range in 150s/100-120s. He cannot take labetalol 300 mg TID due 
to fatigue, some mild sexual dysfunction, and dizziness. He took 
300 mg labetalol and 40 mg lisinopril this AM. 

He does note that since his father died suddenly ___, he has 
been more anxious. He had a friend that died of a brain tumor, 
but reassuringly his head CT did not show evidence of one. 
 
ROS:  
-Negative:
No fevers, chills, night sweats, or weight changes. No changes 
in balance. No cough, no shortness of breath, orthopnea. chest 
pain or palpitations. No nausea or vomiting. No diarrhea or 
constipation. No dysuria or hematuria. No hematochezia, no 
melena. No numbness or weakness, no focal deficits.
-Positive:
Chest pain, Headache, N/V, Dyspnea on exertion, Vision changes 
as per HPI  
Subjective difficulty with reading aloud
Occasional BRBPR attributed to hemorrhoids
Occasional right index finger numbness
Snoring, wakes up often, doesn't feel refreshed in AM, takes 
naps during the day
Occasional ___ edema at the end of the day

 
Past Medical History:
HTN
Glomerulosclerosis
 
Social History:
___
Family History:
His father died suddenly in ___ (autopsy pending). 

 
Physical Exam:
ADMISSION EXAM:
VS:  98.4 67 192/109 98% RA
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. 
Pupils very dilated and minimally reactive to light.
NECK: Supple without LAD  
PULM: Generally CTA b/l with soft end-expiratory wheeze  
COR: RRR, S1 with prominent S2, no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema, 2+ DP pulses  
NEURO: CN II-XII grossly intact, motor function grossly normal, 
EOMI, no obvious visual field defects, no nystagmus, no 
diplopia. Finger-to-nose & heel-to-shin intact bilaterally. 
"Pa-ta-ka" intact. 

DISCHARGE EXAM:
VS: 146/74 73 18 97RA
GEN: Alert, lying in bed, no acute distress  
HEENT: Moist MM, anicteric sclerae, no conjunctival pallor. 
PERRL.
NECK: Supple without LAD  
PULM: Generally CTA b/l with soft end-expiratory wheeze  
COR: RRR, S1 with prominent S2, no m/r/g  
ABD: Soft, non-tender, non-distended  
EXTREM: Warm, well-perfused, no edema, 2+ DP pulses  
NEURO: CN II-XII grossly intact, motor function grossly normal, 
EOMI, no obvious visual field defects, no nystagmus, no 
diplopia. Finger-to-nose & heel-to-shin intact bilaterally. 
"Pa-ta-ka" intact. 
 
Pertinent Results:
ADMISSION LABS:

___ 12:05PM BLOOD WBC-10.7* RBC-5.09 Hgb-15.3 Hct-45.2 
MCV-89 MCH-30.1 MCHC-33.8 RDW-13.2 RDWSD-42.8 Plt ___
___ 12:05PM BLOOD Neuts-73.1* Lymphs-15.2* Monos-6.2 
Eos-4.4 Baso-0.6 Im ___ AbsNeut-7.82* AbsLymp-1.62 
AbsMono-0.66 AbsEos-0.47 AbsBaso-0.06
___ 12:05PM BLOOD Glucose-106* UreaN-19 Creat-1.2 Na-140 
K-4.4 Cl-105 HCO3-25 AnGap-14
___ 12:05PM BLOOD ALT-27 AST-26 AlkPhos-64 TotBili-0.5
___ 12:11PM BLOOD Lactate-1.0
___ 10:57PM URINE Color-Yellow Appear-Clear Sp ___
___ 10:57PM URINE Blood-NEG Nitrite-NEG Protein-600 
Glucose-NEG Ketone-NEG Bilirub-NEG Urobiln-NEG pH-6.5 Leuks-NEG
___ 10:57PM URINE RBC-0 WBC-<1 Bacteri-NONE Yeast-NONE 
Epi-0
___ 10:57PM URINE Hours-RANDOM Creat-171 TotProt-473 
Prot/Cr-2.8*
___ 10:57PM URINE CastGr-3* CastHy-1*

DISCHARGE LABS:
___ 01:15PM BLOOD Glucose-84 UreaN-20 Creat-1.4* Na-140 
K-4.0 Cl-105 HCO3-27 AnGap-12

STUDIES:
___: Sinus rhythm. Probable biatrial abnormality. Left 
ventricular hypertrophy. Inferolateral ST-T wave changes, likely 
due to left ventricular hypertrophy/secondary repolarization. No 
previous tracing available for comparison.  

  
___ CT HEAD: IMPRESSION: No evidence of acute hemorrhage or 
large vascular territory infarction. 
___ CXR: IMPRESSION: No acute cardiopulmonary process. 

 
Brief Hospital Course:
___ with glomerulosclerosis and hypertension presenting with 
headache, vision change, and chest pain in setting of 
hypertensive urgency. 

#Hypertensive urgency: Pt with SBP >200s on arrival to ED. Not 
obviously due to medication non-compliance. DIscomfort from 
headache may have been causing BP to be more elevated. EKG 
showed LVH with strain and he had visual changes, however, 
troponin was negative, fundoscopy exam showed no 
papilledema/hemorrhage, and CT head/CXR were normal. ___ received 
IV labetalol in ED and IV hydralazine once on the floor. Home 
labetalol/lisinopril (modified doses) were continued and 
amlodipine was added with adequate control of BP. 

#Headaches: Pt described headache with worrisome 
characteristics, such as worse at night/AM, when lying down, and 
associated with nausea/emesis for the last ___ months. MRI/MRV 
were initially ordered, however, given normal head CT and 
neurologic exam, neurology was consulted. They believe his 
headaches are a combination of tension, analgesic rebound, and 
migraine headaches. He has been taking copious amounts of 
acetaminophen, aspirin & ibuprofen since he injured his ankle in 
___. Amitriptyline 10 mg qHS was started and patient 
counseled to avoid analgesics. He will follow with neurology for 
this headaches. 

#Visual changes: Pt described right-sided monocular visual 
defects for day prior to admission. Changes may have been 
component of retinal migraine. Fundoscopic evaluation by 
ophthalmology revealed no acute deficits (Note: did see cotton 
wool spots consistent with chronic HTN). His vision changes 
resolved after pupils were dilated for eye exam.

#Chest pain: Likely demand in setting of HTN vs anxiety. Chest 
pain was atypical for cardiac etiology in that it was sharp, 
fleeting, lasting 30 seconds maximum and did not reliably occur 
with exertion. Troponin was negative and EKG showed no ischemic 
changes. 

___: Creatinine uptrended to 1.4 on day if discharge despite 1L 
fluid bolus. Unclear etiology. 

TRANSITIONAL ISSUES:
==================
-Repeat creatinine at f/u appointment; Increased slightly on day 
of discharge despite IVF.
-Please obtain outpatient TTE for dyspnea on exertion, LVH on 
EKG in setting of HTN
-If chest pain continues, consider cardiac stress test
-Please counsel patient on avoiding 
acetaminophen/ibuprofen/aspirin. He will follow with neurology 
regarding headaches
-Evaluate patient for anxiety, as he endorsed some symptoms of 
GAD
-Pt needs ophthalmology follow-up in ___ weeks for cotton wool 
spots on Right retina
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Lisinopril 40 mg PO BID 
2. Labetalol 600 mg PO ONCE 
3. Acetaminophen Dose is Unknown  PO Q4H:PRN headache 
4. Aspirin Dose is Unknown  PO DAILY:PRN headache 

 
Discharge Medications:
1. Labetalol 300 mg PO BID 
RX *labetalol 300 mg 1 tablet(s) by mouth twice a day Disp #*60 
Tablet Refills:*0
2. Lisinopril 40 mg PO DAILY 
RX *lisinopril 40 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
3. Amitriptyline 10 mg PO QHS 
RX *amitriptyline 10 mg 1 tablet(s) by mouth at bedtime Disp 
#*30 Tablet Refills:*0
4. Amlodipine 10 mg PO DAILY 
RX *amlodipine 10 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Primary: hypertension urgency, essential hypertension, 
analgesic-induced headaches
Secondary: glomerulosclerosis
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Dear Mr. ___,

It was a pleasure taking care of you at the ___ 
___. You were admitted for high blood 
pressure, headache, vision changes and chest pain. 

The ophthalmologists evaluated your eyes and did not find any 
serious changes that could have caused your visual changes. Our 
neurologists believe these changes may have been due to a unique 
type of migraine. 

The neurologists also evaluated you for your headaches. They 
believe your headaches are partially migraines, tension 
headaches, and due to too much tylenol/aspirin/ibuprofen. We 
have started you on a new medication for headaches called 
amitriptyline. You should take this at bedtime daily. Also, you 
must avoid any other the counter medications, like tylenol, 
ibuprofen and aspirin for headaches. If you must, you can only 
take these medications once every 5 days. 

Your chest pain may have been related to your high blood 
pressure or anxiety. It is less likely due to heart disease. If 
your chest pain continues, you should speak to your primary care 
doctor regarding ___ stress test. 

On behalf of your ___ team,
We wish you all the best
 
Followup Instructions:
___